US08466282B2
{[(3S,5R)-1-(tert-butoxycarbonyl)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl](2-methylpropyl)amino}(oxo)acetic acid
To a solution of tert-butyl (3S,5R)-3-{[ethoxy(oxo)acetyl](2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (10.3 g) in ethanol (40 ml) was added 2M aqueous sodium hydroxide solution (22 ml), and the mixture was stirred at room temperature for 6 hr. The reaction mixture was adjusted to pH 7 with 1M hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the object product (10.3 g).

reactant | tert-butyl (3S,5R)-3-{[ethoxy(oxo)acetyl](2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 10.3 g | C(C)OC(C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C)=O | C23H39N3O7
reactant | sodium hydroxide | 2M, 22 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | {[(3S,5R)-1-(tert-butoxycarbonyl)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl](2-methylpropyl)amino}(oxo)acetic acid | 10.3 g | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H](C1)C(=O)N1CCOCC1)N(CC(C)C)C(C(=O)O)=O | C21H35N3O7
